US07741341B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-(4-hydroxy-piperidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-(4-hydroxy-piperidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide was prepared by a procedure according to example 22 starting from 670 mg (1.10 mmol) 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid and 124.0 mg (1.21 mmol) piperidin-4-ol. The title compound was obtained as its formiate. Subsequent transformation to the corresponding acetate gave a white amorphous solid.

reactant | 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | 1.10 mmol, 670 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C25H26ClN5O4S
reactant | piperidin-4-ol | 1.21 mmol, 124.0 mg | N1CCC(CC1)O | C5H11NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-(4-hydroxy-piperidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1CC1=NOC(=C1)C=1SC(=CC1)Cl)C=CC=C2C(=O)N2CCC(CC2)O | C30H35ClN6O4S
